US08729102B2
A) 5-bromo-3-chloro-N-(2,4-dihydroxyphenyl)pyridine-2-carboxamide
Using 5-bromo-3-chloropyridine-2-carboxylic acid and 4-aminobenzene-1,3-diol hydrochloride, and in the same manner as in Example 2, step C, the title compound was obtained.

reactant | 5-bromo-3-chloropyridine-2-carboxylic acid | BrC=1C=C(C(=NC1)C(=O)O)Cl | C6H3BrClNO2
reactant | 4-aminobenzene-1,3-diol hydrochloride | Cl.NC1=C(C=C(C=C1)O)O
product | 5-bromo-3-chloro-N-(2,4-dihydroxyphenyl)pyridine-2-carboxamide | BrC=1C=C(C(=NC1)C(=O)NC1=C(C=C(C=C1)O)O)Cl | C12H8BrClN2O3
